2171-04-18 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2171-4-17**] 11:58 AM
 TUNNELED (HICKMAN) LINE - START [**2171-4-17**] 01:45 PM
   - called patient's PCP [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5376**] ([**Telephone/Fax (1) 12467**] but his office is
   closed on Wednesdays.  Asked him to call [**Hospital Unit Name 4**] tomorrow AM, hopefully we
   can get records.
   - Renal talked to PCP [**Name9 (PRE) 5376**] to get info on PD; all PD orders are
   placed by Renal consult service
   - need to get Zemplar dosing info from Renal tmrw
   - Plastics came by; they feel that this is most likely gout, gave some
   toradol tonight.  They will see patient again tmrw.
   - [**Hospital3 33**] Hospital BCx: Gram stain +ve for cocci in clusters
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2171-4-18**] 12:55 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-18**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.5
   HR: 100 (93 - 112) bpm
   BP: 91/66(71) {84/56(62) - 132/70(84)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 16 (10 - 22)mmHg
   Total In:
                                                                  2,035 mL
                                                                    272 mL
   PO:
                                                                    720 mL
   TF:
   IVF:
                                                                  1,315 mL
                                                                    272 mL
   Blood products:
   Total out:
                                                                  2,435 mL
                                                                     35 mL
   Urine:
                                                                     35 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                    237 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   289 K/uL
   12.4 g/dL
   171 mg/dL
   9.8 mg/dL
   22 Eq/L
   5.1 mEq/L
   101 mg/dL
   91 mEq/L
   130 mEq/L
   39.4 %
   12.7 K/uL
        [image002.jpg] vanc 12.7
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
   WBC
   10.1
   12.7
   Hct
   34.7
   39.4
   Plt
   255
   289
   Cr
   8.7
   Glucose
   110
   Other labs: PT / PTT / INR:13.6/28.2/1.2, Lactic Acid:1.9 mmol/L,
   Ca++:7.0 mg/dL, Mg++:1.9 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   80 yo M h/o ESRD on PD, gout p/w acute onset fevers, rigors, R thumb
   and index finger pain and erythema
   .
   # hand cellulitis
 Erythema, generalized swelling concerning for
   cellulitis.  Plastics did not feel that there is any evidence of flexor
   sheath involvement.  Blood cultures drawn at [**Hospital3 33**] Hospital positive
   for GPC in clusters.
   - continue vanc (has to be dosed daily based on level), CTX,
   clindamycin (D2); vanc has to be dosed with daily orders
   - f/u BCx from [**Hospital3 33**] to obtain speciation, sensitivities
   - f/u repeat BCx
   - reassess clinically for improvement
   - f/u Plastics recs
   # gout
 Per Plastics, the joint exam is suspicious for acute gout
   flare.  Now thought to be less likely in the setting of positive BCx
   from OSH.  Patient received toradol 15 mg x 1 yesterday.
   - holding colchicine
   # hypotension
 Likely [**2-12**] septic shock.  Of note, patient
s SBP is
   85-95 at baseline.  Patient does state that in the past, his SBP had
   dropped to the 70s during HD, during which he becomes symptomatic.
   Patient remains asymptomatic thus far in the ICU. Patient does not have
   a cap for his PD catheter, so it is not aseptic. He also has open skin
   blisters over tibias.
   - wean pressors as tolerated
   - abx for treatment of underlying infection (see above)
   - IVF PRN
   # ESRD
 On PD.
   - f/u renal recs, specific question ? can we pull the HD line ?
   - figure out PO to IV Zemplar conversion (only appears to be available
   on formulary as IV here)
   - continue Epogen
   - continue Nephrocaps
   - continue sevelamer
   - holding enalapril
   # CAD
 Continue ASA, simvastatin.  Currently unclear given our current
   data whether patient has a history of CHF.
   - obtain OSH records from PCP regarding recent echo data, CHF history,
   etc.
   - holding enalapril
   - obtain TTE to assess LVSF, r/o vegetations
   # FEN
 heart healthy diet
   # PPx
 HSQ
   # Access
 LIJ
   # Code
 Full
   # Communication
 Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 12458**].  [**Name2 (NI) **]ter
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   # Disposition
 pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   18 Gauge - [**2171-4-17**] 11:59 AM
   20 Gauge - [**2171-4-17**] 11:59 AM
   Tunneled (Hickman) Line - [**2171-4-17**] 01:45 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-04-19 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - get vanc with am labs, redose
   - f/u Bcx from [**Hospital3 **] - GPS in clusters 1 bottle out of 2 sets
   - IR to pull hd line and cx tip - family would like this to be
   addressed with Renal doctor (PCP) in [**Hospital3 **] before doing anything.
   - wound recs: cleanse wounds with commercial wound cleanser. Pat dry.
   Apply Xeroform dressing over each wound (antibacterial).  Cover with
   4x4's and wrap with Kerlix, secure with paper tape. Change dressings
   daily.  Manage the underlying disease that causes the pruritus.
   - zemplar conversion per renal recs
   - TTE: Severe focal LV systolic dysfunction, consistent with prior
   ischemia/infarction. Mild aortic stenosis. Moderate mitral
   regurgitation and pulmonary hypertension
   - Bcx here positive for GPC in clusters aerobic.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-4-18**] 10:13 AM
   Vancomycin - [**2171-4-18**] 11:56 AM
   Clindamycin - [**2171-4-19**] 12:43 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-19**] 07:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-19**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 105 (95 - 119) bpm
   BP: 72/55(59) {72/17(35) - 108/74(103)} mmHg
   RR: 21 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.2 kg (admission): 88.7 kg
   Height: 68 Inch
    CVP: 10 (10 - 18)mmHg
   Total In:
                                                                  1,182 mL
                                                                    314 mL
   PO:
   TF:
   IVF:
                                                                  1,182 mL
                                                                    314 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                   -100 mL
   Urine:
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    227 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   263 K/uL
   11.9 g/dL
   108 mg/dL
   9.7 mg/dL
   22 mEq/L
   5.0 mEq/L
   98 mg/dL
   88 mEq/L
   128 mEq/L
   36.6 %
   10.2 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
   WBC
   10.1
   12.7
   10.2
   Hct
   34.7
   39.4
   36.6
   Plt
   255
   289
   263
   Cr
   8.7
   9.8
   9.7
   Glucose
   110
   171
   108
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:8.1 mg/dL
   Assessment and Plan
   80 yo M h/o ESRD on PD, gout p/w acute onset fevers, rigors, R thumb
   and index finger pain and erythema
   .
   # hand cellulitis
 Erythema, generalized swelling concerning for
   cellulitis.  Plastics did not feel that there is any evidence of flexor
   sheath involvement.  Blood cultures drawn at [**Hospital3 33**] Hospital positive
   for GPC in clusters.
   - continue vanc (has to be dosed daily based on level), will d/c CTX
   and clindamycin given cx show GPC
   - f/u BCx from [**Hospital3 33**] to obtain speciation, sensitivities
   - f/u repeat BCx
   - reassess clinically for improvement
   - f/u Plastics recs
   - will discuss with PCP regarding pulling HD line as most likely seeded
   with GPC
   # gout
 Per Plastics, the joint exam is suspicious for acute gout
   flare.  Now thought to be less likely in the setting of positive BCx
   from OSH.  Patient received toradol 15 mg x 1 yesterday.
   - holding colchicine
   # hypotension
 Likely [**2-12**] septic shock.  Of note, patient
s SBP is
   85-95 at baseline.  Patient does state that in the past, his SBP had
   dropped to the 70s during HD, during which he becomes symptomatic.
   Patient remains asymptomatic thus far in the ICU. Patient does not have
   a cap for his PD catheter, so it is not aseptic. He also has open skin
   blisters over tibias.
   - wean pressors as tolerated
   - abx for treatment of underlying infection (see above)
   - IVF PRN
   # ESRD
 On PD.
   - f/u renal recs, specific question ? can we pull the HD line ?
   - figure out PO to IV Zemplar conversion (only appears to be available
   on formulary as IV here)
   - continue Epogen
   - continue Nephrocaps
   - continue sevelamer
   - holding enalapril
   # CAD
 Continue ASA, simvastatin.  Currently unclear given our current
   data whether patient has a history of CHF.
   - obtain OSH records from PCP regarding recent echo data, CHF history,
   etc.
   - holding enalapril
   - obtain TTE to assess LVSF, r/o vegetations
   # FEN
 heart healthy diet
   # PPx
 HSQ
   # Access
 LIJ
   # Code
 Full
   # Communication
 Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 12458**].  [**Name2 (NI) **]ter
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   # Disposition
 pending clinical improvement
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 CELLULITIS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   18 Gauge - [**2171-4-17**] 11:59 AM
   20 Gauge - [**2171-4-17**] 11:59 AM
   Tunneled (Hickman) Line - [**2171-4-17**] 01:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-04-20 07:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - STOP [**2171-4-19**] 05:51 PM
   - repeated BCx, Catheter tip cx
   - IR pulled HD line
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-4-18**] 10:13 AM
   Vancomycin - [**2171-4-18**] 11:56 AM
   Clindamycin - [**2171-4-19**] 08:24 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-20**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-20**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 102 (89 - 110) bpm
   BP: 100/60(70) {68/14(36) - 109/64(70)} mmHg
   RR: 17 (14 - 23) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.2 kg (admission): 88.7 kg
   Height: 68 Inch
    CVP: 30 (11 - 30)mmHg
   Total In:
                                                                  1,431 mL
                                                                    270 mL
   PO:
                                                                    840 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    591 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    100 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,219 mL
                                                                    170 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: ///23/
   Physical Examination
   GEN: NAD
   CV: RRR
   RESP: CTA on anterior exam
   ABD: distended, non-tender
   EXT: R hand shows mild erythema esp. R index finger, tenderness to palp
   of R index DIP and L thumb CMC, improved from prior
   Labs / Radiology
   278 K/uL
   11.6 g/dL
   98 mg/dL
   9.3 mg/dL
   23 mEq/L
   4.7 mEq/L
   90 mg/dL
   88 mEq/L
   129 mEq/L
   37.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
                             [**2171-4-20**]  06:18 AM
   WBC
   10.1
   12.7
   10.2
   7.3
   Hct
   34.7
   39.4
   36.6
   37.2
   Plt
   255
   289
   263
   278
   Cr
   8.7
   9.8
   9.7
   9.3
   Glucose
   110
   171
   108
   98
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:8.4 mg/dL
[**2171-4-17**] 9:00 am BLOOD CULTURE
   Blood Culture, Routine (Preliminary):
      STAPH AUREUS COAG +.    PRELIMINARY SENSITIVITY.
         These preliminary susceptibility results are offered to help guide
         treatment; interpret with caution as final susceptibilities may
         change. Check for final susceptibility results in 24 hours.
                              SENSITIVITIES: MIC expressed in MCG/ML
                      _________________________________________________________
                             STAPH AUREUS COAG +
                             |
OXACILLIN-------------       S
   Assessment and Plan
   80 yo M h/o ESRD on PD, gout p/w acute onset fevers, rigors, R thumb
   and index finger pain and erythema
   .
   # bacteremia, cellulitis
 Erythema, generalized swelling concerning
   for cellulitis.  Plastics did not feel that there is any evidence of
   flexor sheath involvement.  BCx here positive for MSSA on admission.
   - currently on vanc monotherapy D4; consider switching to IV nafcillin
   - reassess clinically for improvement
   - f/u Plastics recs
   - s/p removal of HD line; f/u catheter tip cultures
   # gout
 Per Plastics, the joint exam is suspicious for acute gout
   flare.  Now thought to be less likely in the setting of positive BCx
   from OSH.  Patient received toradol 15 mg x 1 yesterday.
   - colchicine 0.6 mg x 1 per renal recs
   - continue to monitor
   # hypotension
 Likely [**2-12**] septic shock.  Of note, patient
s SBP is
   85-95 at baseline.  Patient does state that in the past, his SBP had
   dropped to the 70s during HD, during which he becomes symptomatic.
   Patient remains asymptomatic thus far in the ICU. Patient does not have
   a cap for his PD catheter, so it is not aseptic. He also has open skin
   blisters over tibias.
   - wean pressors as tolerated
   - abx for treatment of underlying infection (see above)
   - IVF PRN
   # ESRD
 On PD.
   - figure out PO to IV Zemplar conversion (only appears to be available
   on formulary as IV here)
   - continue Epogen
   - continue Nephrocaps
   - continue sevelamer, add alum ox as phosphate continues to be high
   - holding enalapril
   # CAD
 Continue ASA, simvastatin.
   - obtain OSH records from PCP regarding recent echo data, CHF history,
   etc.
   - holding enalapril
   # CHF
 Depressed LVSF (EF 25-30%); given patient history, likely
   unchanged from prior.
   - monitor fluid status
   # FEN
 heart healthy diet
   # PPx
 HSQ
   # Access
 LIJ
   # Code
 Full
   # Communication
 Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 12458**].  [**Name2 (NI) **]ter
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   # Disposition
 pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   18 Gauge - [**2171-4-17**] 11:59 AM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-04-20 12:45:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on vasopressor infusion to maintain BP MAP >60 mmHg.
                               History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-4-18**] 10:13 AM
   Vancomycin - [**2171-4-18**] 11:56 AM
   Clindamycin - [**2171-4-19**] 08:24 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-20**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-4-20**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.7
   HR: 95 (89 - 102) bpm
   BP: 90/72(97) {75/14(36) - 104/72(97)} mmHg
   RR: 18 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.2 kg (admission): 88.7 kg
   Height: 68 Inch
   CVP: 11 (11 - 30)mmHg
   Total In:
                                                                  1,431 mL
                                                                    353 mL
   PO:
                                                                    840 mL
                                                                    210 mL
   TF:
   IVF:
                                                                    591 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                  2,650 mL
                                                                    465 mL
   Urine:
                                                                     50 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,219 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated,
   Paralyzed, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   278 K/uL
   98 mg/dL
   9.3 mg/dL
   23 mEq/L
   4.7 mEq/L
   90 mg/dL
   88 mEq/L
   129 mEq/L
   37.2 %
   7.3 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
                             [**2171-4-20**]  06:18 AM
   WBC
   10.1
   12.7
   10.2
   7.3
   Hct
   34.7
   39.4
   36.6
   37.2
   Plt
   255
   289
   263
   278
   Cr
   8.7
   9.8
   9.7
   9.3
   Glucose
   110
   171
   108
   98
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:8.4 mg/dL
   Assessment and Plan
   80 yo M h/o ESRD on PD, gout p/w acute onset fevers, rigors, R thumb
   and index finger pain and erythema
   HYPOTENSION -- attributed to sepsis.  Baseline BP reportedly 80-90
   mmHg.  Continue vasopressor, hold anti-HTN meds.  Plan run PD net even.
   # hand cellulitis
 Erythema, generalized swelling concerning for
   cellulitis.  Plastics did not feel that there is any evidence of flexor
   sheath involvement.  Blood cultures drawn at [**Hospital3 33**] Hospital positive
   for GPC in clusters.
   - continue vanc (has to be dosed daily based on level), will d/c CTX
   and clindamycin given cx show GPC
   - f/u BCx from [**Hospital3 33**] to obtain speciation, sensitivities
   - f/u repeat BCx
   - reassess clinically for improvement
   - f/u Plastics recs
   - will discuss with PCP regarding pulling HD line as most likely seeded
   with GPC
   BACTEREMIA -- staph aureus.  Portal of entry possibly related to
   central line (dialysis catheter --> no removed), PD catheter, skin
   breakdown (pretibial region).
   RiGHT FINGER SWELLING/TENDERNESS -- likely acute Gout. Colchicine.

 Per Plastics, the joint exam is suspicious for acute gout flare.
   Now thought to be less likely in the setting of positive BCx from OSH.
   Patient received toradol 15 mg x 1 yesterday.
   - holding colchicine
   # hypotension
 Likely [**2-12**] septic shock.  Of note, patient
s SBP is
   85-95 at baseline.  Patient does state that in the past, his SBP had
   dropped to the 70s during HD, during which he becomes symptomatic.
   Patient remains asymptomatic thus far in the ICU. Patient does not have
   a cap for his PD catheter, so it is not aseptic. He also has open skin
   blisters over tibias.
   - wean pressors as tolerated
   - abx for treatment of underlying infection (see above)
   - IVF PRN
   # ESRD
 On PD.
   - f/u renal recs, specific question ? can we pull the HD line ?
   - figure out PO to IV Zemplar conversion (only appears to be available
   on formulary as IV here)
   - continue Epogen
   - continue Nephrocaps
   - continue sevelamer
   - holding enalapril
   # CAD
 Continue ASA, simvastatin.  Currently unclear given our current
   data whether patient has a history of CHF.
   - obtain OSH records from PCP regarding recent echo data, CHF history,
   etc.
   - holding enalapril
   - obtain TTE to assess LVSF, r/o vegetations
   # FEN
 heart healthy diet
   # PPx
 HSQ
   # Access
 LIJ
   # Code
 Full
   # Communication
 Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 12458**].  [**Name2 (NI) **]ter
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   # Disposition
 pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2171-04-21 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Cx at [**Hospital1 680**] and [**Hospital1 5**] --> MSSA
   - ID c/s requested, antibiotic changed to nafcillin
   - colchicine for gout
   - continues to have pressor requirement; ask Renal to run patient more
   positive on PD tmrw (net negative on LOS)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-4-18**] 10:13 AM
   Vancomycin - [**2171-4-18**] 11:56 AM
   Clindamycin - [**2171-4-19**] 08:24 AM
   Nafcillin - [**2171-4-21**] 06:15 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-21**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-21**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 93 (87 - 99) bpm
   BP: 86/47(56) {75/39(47) - 102/75(97)} mmHg
   RR: 21 (9 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 88.7 kg
   Height: 68 Inch
    CVP: 16 (11 - 36)mmHg
   Total In:
                                                                  1,244 mL
                                                                    564 mL
   PO:
                                                                    930 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    314 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                   -275 mL
   Urine:
                                                                     30 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -836 mL
                                                                    839 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   280 K/uL
   12.3 g/dL
   156 mg/dL
   8.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   82 mg/dL
   89 mEq/L
   130 mEq/L
   37.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
                             [**2171-4-20**]  06:18 AM
                             [**2171-4-21**]  06:03 AM
   WBC
   10.1
   12.7
   10.2
   7.3
   7.7
   Hct
   34.7
   39.4
   36.6
   37.2
   37.1
   Plt
   255
   289
   263
   278
   280
   Cr
   8.7
   9.8
   9.7
   9.3
   8.7
   Glucose
   110
   171
   108
   98
   156
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   80 yo M h/o ESRD on PD, gout p/w acute onset fevers, rigors, R thumb
   and index finger pain and erythema
   .
   # bacteremia, cellulitis
 Erythema, generalized swelling concerning
   for cellulitis.  Plastics did not feel that there is any evidence of
   flexor sheath involvement.  BCx here positive for MSSA on admission.
   - switched to nafcillin (D5) from vancomycin
   - ID recs: CT hand to r/o focal collection or joint effusion, CT
   abdomen to eval for inflammation/collections at AAA site, obtain
   records to see if patient has endovascular graft in situ, US of former
   HD cath site to r/o clot (TEE if negative), and podiatry consult to
   assess lower extremities
   - Hand Svc signed off
   - s/p removal of HD line; cath tip cultures pos for coag-pos Staph,
   speciation/sensitivities pending (expect MSSA)
   # gout
 Per Plastics, the joint exam is suspicious for acute gout
   flare.  Now thought to be less likely in the setting of positive BCx
   from OSH.  Patient received toradol 15 mg x 1, colchicine 0.6 mg x 1
   thus far. Colchicine is not cleared by PD
 will need to monitor.
   - continue to monitor
   # hypotension
 Likely [**2-12**] septic shock.  Of note, patient
s SBP is
   85-95 at baseline.  Patient does state that in the past, his SBP had
   dropped to the 70s during HD, during which he becomes symptomatic.
   Patient remains asymptomatic thus far in the ICU. Patient does not have
   a cap for his PD catheter, so it is not aseptic. He also has open skin
   blisters over tibias.
   - wean pressors as tolerated
   - abx for treatment of underlying infection (see above)
   - IVF PRN
   - getting a random cortisol level
   # ESRD
 On PD.
   - figure out PO to IV Zemplar conversion (only appears to be available
   on formulary as IV here)
   - continue Epogen
   - continue Nephrocaps
   - continue sevelamer, add alum ox as phosphate continues to be high
   - holding enalapril
   - f/u renal recs
   # CAD
 Continue ASA, simvastatin.
   - obtain OSH records from PCP regarding recent echo data, CHF history,
   etc.
   - holding enalapril
   # CHF
 Depressed LVSF (EF 25-30%); given patient history, likely
   unchanged from prior.
   - monitor fluid status
   # FEN
 heart healthy diet
   # PPx
 HSQ
   # Access
 LIJ
   # Code
 Full
   # Communication
 Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 12458**].  [**Name2 (NI) **]ter
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   # [**Hospital 12535**]
 transfer to [**Hospital3 **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-04-21 09:29:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   States pain in right hand unchanged over past 24 hrs, although improved
   since admission.
   Experienced brief (< 10 beats) NSVT.  No symptoms.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2171-4-18**] 10:13 AM
   Vancomycin - [**2171-4-18**] 11:56 AM
   Clindamycin - [**2171-4-19**] 08:24 AM
   Nafcillin - [**2171-4-21**] 06:15 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-21**] 12:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-4-21**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.2
   HR: 93 (87 - 98) bpm
   BP: 80/41(46) {75/39(46) - 102/75(97)} mmHg
   RR: 22 (10 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 88.7 kg
   Height: 68 Inch
   CVP: 11 (11 - 36)mmHg
   Total In:
                                                                  1,244 mL
                                                                    708 mL
   PO:
                                                                    930 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    314 mL
                                                                    348 mL
   Blood products:
   Total out:
                                                                  2,080 mL
                                                                   -175 mL
   Urine:
                                                                     30 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -836 mL
                                                                    883 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   12.3 g/dL
   280 K/uL
   156 mg/dL
   8.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   82 mg/dL
   89 mEq/L
   130 mEq/L
   37.1 %
   7.7 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
                             [**2171-4-20**]  06:18 AM
                             [**2171-4-21**]  06:03 AM
   WBC
   10.1
   12.7
   10.2
   7.3
   7.7
   Hct
   34.7
   39.4
   36.6
   37.2
   37.1
   Plt
   255
   289
   263
   278
   280
   Cr
   8.7
   9.8
   9.7
   9.3
   8.7
   Glucose
   110
   171
   108
   98
   156
   Other labs: PT / PTT / INR:13.8/30.1/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:7.2 mg/dL
   Assessment and Plan
   80 yom h/o ESRD on PD, gout now with Staph aureus bacteremia.
   HYPOTENSION -- attributed to sepsis.  Baseline BP reportedly 80-90
   mmHg.  Continue vasopressor, hold anti-HTN meds.  Plan check cortisol
   level --> would consider cotrosyn stimulation test.  Plan run PD net
   even.
   RIGHT HAND CELLULITIS
 Erythema, generalized swelling initially
   concerning for cellulitis --> improved.  Plastics Surgery did not feel
   that there is any evidence of flexor sheath involvement.  Blood
   cultures drawn at [**Hospital3 33**] Hospital positive for Staph aureus --> now
   on Nafcillin.  Monitor vancomycin levels  (has to be dosed daily based
   on level).  Imaging to be arranged either [**Hospital1 5**] or [**Hospital3 33**].  Hand
   Surgery to reassess in context of bacteremia.
   BACTEREMIA -- staph aureus.  Portal of entry possibly related to
   central line (dialysis catheter --> no removed), PD catheter, skin
   breakdown (pretibial region).  ID consultation obtained -->
   recommendations in progress.
   RiGHT FINGER SWELLING/TENDERNESS -- likely component of acute Gout.
   Colchicine use cautiously.
   NSVT
 no apparent electrolyte disturbance.  attributed to
   toxic-metabolic insult (sepsis) on background of cardiomyopathy and
   concurrent use of vasopressor.  Also consider endocardial infection
   would check echo if recurrs, assess for perivalvular abscess.
   ESRD
 Continue PD.  Maintain net even fluid balance.
   FLUIDS
 With hypotension & vasopressor dependence, maintain net even
   fluid balance, may require iv fluid boluses.
   CAD
 Continue ASA, simvastatin.  Plan TTE for evalution of valvular
   lesions.
   NUTRITIONAL SUPPORT
 heart healthy diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
 transfer back to [**Hospital3 33**] hospital
   Total time spent: 45 minutes
   Patient is critically ill

2171-04-22 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID - tap of joint (Rheum), CTA or non-contrast of abd; podiatry
   consult for toe management.
   - Held off on CT the patient due to patient concerns, got Rheum to tap
   the joint, added on UAcid = 5.2 - not concerned about infection.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Clindamycin - [**2171-4-19**] 08:24 AM
   Nafcillin - [**2171-4-22**] 05:44 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-4-22**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.9
C (96.6
   HR: 92 (87 - 99) bpm
   BP: 92/65(72) {74/41(46) - 100/65(72)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.7 kg (admission): 88.7 kg
   Height: 68 Inch
    CVP: 14 (11 - 14)mmHg
   Total In:
                                                                  2,336 mL
                                                                    475 mL
   PO:
                                                                  1,440 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    896 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                    420 mL
   Urine:
                                                                     95 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -209 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GEN: NAD
   CV: RRR
   RESP: CTA on anterior exam
   ABD: distended, non-tender
   EXT: R hand shows mild erythema esp. R index finger, tenderness to palp
   of R index DIP and L thumb CMC, unchanged  from yesterday
   Labs / Radiology
   304 K/uL
   13.3 g/dL
   101 mg/dL
   8.8 mg/dL
   25 mEq/L
   4.7 mEq/L
   79 mg/dL
   89 mEq/L
   130 mEq/L
   41.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
                             [**2171-4-20**]  06:18 AM
                             [**2171-4-21**]  06:03 AM
                             [**2171-4-22**]  04:15 AM
   WBC
   10.1
   12.7
   10.2
   7.3
   7.7
   6.8
   Hct
   34.7
   39.4
   36.6
   37.2
   37.1
   41.2
   Plt
   255
   289
   263
   [**Telephone/Fax (3) 12564**]
   Cr
   8.7
   9.8
   9.7
   9.3
   8.7
   8.8
   Glucose
   110
   171
   108
   98
   156
   101
   Other labs: PT / PTT / INR:14.1/28.9/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   80 yo M h/o ESRD on PD, gout p/w acute onset fevers, rigors, R thumb
   and index finger pain and erythema
   .
   # bacteremia, cellulitis
 Erythema, generalized swelling concerning
   for cellulitis.  Plastics did not feel that there is any evidence of
   flexor sheath involvement.  BCx here positive for MSSA on admission. HD
   line removed and positive for MSSA.
   - switched to nafcillin (D6) from vancomycin
   - f/u ID recs
   - deferred CT abdomen for now as it appears that contrast load is not
   desired by this patient
s outpatient nephrologists; could get WBC scan
   if still indicated
   - US of former HD cath site to r/o clot (TEE if negative)
   - Hand Svc signed off
   # gout
 Per Plastics, the joint exam is suspicious for acute gout
   flare.  Now thought to be less likely in the setting of positive BCx
   from OSH.  Patient received toradol 15 mg x 1, colchicine 0.6 mg x 1
   thus far. Colchicine is not cleared by PD
 will need to monitor.
   - Rheum attempted to aspirate R index DIP but could not pull back
   fluid.  They agree that gout is most likely as opposed to septic
   arthritis.
   - consider prednisone 20 mg x 1 per Rheum recs
   - continue to monitor
   # hypotension
 Likely [**2-12**] septic shock.  Of note, patient
s SBP is
   85-95 at baseline.  Patient does state that in the past, his SBP had
   dropped to the 70s during HD, during which he becomes symptomatic.
   Patient remains asymptomatic thus far in the ICU. Patient does not have
   a cap for his PD catheter, so it is not aseptic. He also has open skin
   blisters over tibias. His BCx and Cath Tip Cx were both positive for
   MSSA.
   - wean pressors as tolerated
   = bolus fluids if PD runs negative, worry about CHF
   - abx for treatment of underlying infection (see above)
   - IVF PRN
   - getting a random cortisol level
   # ESRD
 On PD. Recently started dual phosphate binding
   - figure out PO to IV Zemplar conversion (only appears to be available
   on formulary as IV here)
   - continue Epogen
   - continue Nephrocaps
   - continue sevelamer, alum ox - holding enalapril
   - f/u renal recs
   # CAD
 Continue ASA, simvastatin.
   - obtain OSH records from PCP regarding recent echo data, CHF history,
   etc.
   - holding enalapril
   # CHF
 Depressed LVSF (EF 25-30%); given patient history, likely
   unchanged from prior.
   - monitor fluid status
   # FEN
 heart healthy diet
   # PPx
 HSQ
   # Access
 LIJ
   # Code
 Full
   # Communication
 Patient and wife [**Name (NI) **] [**Telephone/Fax (1) 12458**].  [**Name2 (NI) **]ter
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **].
   # [**Hospital 12535**]
 transfer to [**Hospital3 **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2171-04-22 10:15:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on vasopressor, tolerating net weaning.
   Denies dyspnea, chest discomfort, abd pain.
   Right hand finger swelling improved.
                               History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2171-4-22**] 05:44 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2171-4-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-4-22**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**73**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 95 (87 - 99) bpm
   BP: 86/56(63) {74/41(48) - 100/65(72)} mmHg
   RR: 19 (13 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93.7 kg (admission): 88.7 kg
   Height: 68 Inch
             Total In:
                                                                  2,336 mL
                                                                    518 mL
   PO:
                                                                  1,440 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    896 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  1,430 mL
   Urine:
                                                                     95 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -209 mL
                                                                   -912 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): ox3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   13.3 g/dL
   304 K/uL
   101 mg/dL
   8.8 mg/dL
   25 mEq/L
   4.7 mEq/L
   79 mg/dL
   89 mEq/L
   130 mEq/L
   41.2 %
   6.8 K/uL
        [image002.jpg]
                             [**2171-4-17**]  04:35 PM
                             [**2171-4-18**]  05:55 AM
                             [**2171-4-19**]  04:53 AM
                             [**2171-4-20**]  06:18 AM
                             [**2171-4-21**]  06:03 AM
                             [**2171-4-22**]  04:15 AM
   WBC
   10.1
   12.7
   10.2
   7.3
   7.7
   6.8
   Hct
   34.7
   39.4
   36.6
   37.2
   37.1
   41.2
   Plt
   255
   289
   263
   [**Telephone/Fax (3) 12564**]
   Cr
   8.7
   9.8
   9.7
   9.3
   8.7
   8.8
   Glucose
   110
   171
   108
   98
   156
   101
   Other labs: PT / PTT / INR:14.1/28.9/1.2, ALT / AST:30/35, Alk Phos / T
   Bili:223/0.5, Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:231 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:6.9 mg/dL
   Assessment and Plan
   80 yom h/o ESRD on PD, gout now with Staph aureus bacteremia.
   HYPOTENSION -- attributed to sepsis.  Baseline BP reportedly 80-90
   mmHg.  Continue vasopressor, hold anti-HTN meds.  Cortisol level
   relatively low --> would consider cotrosyn stimulation test, or
   empirical steroids.  Plan run PD net even.
   RIGHT HAND CELLULITIS
 Erythema, generalized swelling initially
   concerning for cellulitis --> improved.  Plastics Surgery did not feel
   that there is any evidence of flexor sheath involvement.  Blood
   cultures drawn at [**Hospital3 33**] Hospital positive for Staph aureus --> now
   on Nafcillin.  Monitor vancomycin levels  (has to be dosed daily based
   on level).  Imaging to be arranged either [**Hospital1 5**] or [**Hospital3 33**].  Hand
   Surgery to reassess in context of bacteremia.
   BACTEREMIA -- Staph aureus.  Portal of entry possibly related to
   central line (dialysis catheter --> now removed), PD catheter, skin
   breakdown (pretibial region).  ID consultation obtained -->
   recommendations in progress.
   RiGHT FINGER SWELLING/TENDERNESS -- likely component of acute Gout.
   Colchicine use cautiously.  Consider steroids.
   NSVT
 no apparent electrolyte disturbance.  attributed to
   toxic-metabolic insult (sepsis) on background of cardiomyopathy and
   concurrent use of vasopressor.  Also consider endocardial infection
   would check echo if recurrs, assess for perivalvular abscess.
   ESRD
 Continue PD.  Maintain net even fluid balance.
   FLUIDS
 With hypotension & vasopressor dependence, maintain net even
   fluid balance, may require iv fluid boluses.
   CAD
 Continue ASA, simvastatin.  Plan TTE for evalution of valvular
   lesions.
   NUTRITIONAL SUPPORT
 heart healthy diet
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2171-4-17**] 11:58 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill